US07737138B2
N,N-diethyl-p-phenylenediamine (H2NC6H4N(CH2CH3)2, MW 164.25, 40 g, 244 mmol) was dissolved in diethyl ether (200 cm3). Hydrochloric acid (40 cm3, 37%) was added. The resulting solution was concentrated by rotary evaporation to give N,N-diethyl-p-phenylenediamine dihydrochloride as a light brown solid (57.76 g, 100%). dH (250 MHz; D2O): 7.68 (2H, m, ArH), 3.45 (4H, q, 7.25, NCH2), 1.19 (6H, t, 7.25, CH3).

reactant | N,N-diethyl-p-phenylenediamine | 244 mmol, 40 g | C(C)N(C1=CC=C(C=C1)N)CC | C10H16N2
reactant | Hydrochloric acid | 40 cm3 | Cl | ClH
solvent | diethyl ether | 200 cm3 | C(C)OCC | C4H10O
product | N,N-diethyl-p-phenylenediamine dihydrochloride | 57.76 g, 100% | Cl.Cl.C(C)N(C1=CC=C(C=C1)N)CC | InChI=1S/C10H16N2.2ClH/c1-3-12(4-2)10-7-5-9(11)6-8-10;;/h5-8H,3-4,11H2,1-2H3;2*1H
